US06825188B2
Preparation of (±)-8-[3-(Pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
A mixture of methyl (±)-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.071 g, 0:18 mmol) and lithium hydroxide monohydrate (0.009 g, 2 mmol) in THF (5 mL) and H2O (2 mL) was stirred at room temperature for 18 hr, then was concentrated. The residue was dissolved in H2O and the pH was adjusted to 4 with 3 N HCl. The resulting solid was collected by filtration and dried to give the title compound (0.05 g, 73%) as a white solid: MS m/e 371.4 (M+H)+. Anal. Calcd for C19H22N4O4.0.5 H2O: C, 60.15; H, 6.11; N, 14.77. Found: C, 60.14; H, 6.06; N, 14.71.

reactant | methyl (±)-8-[3-(pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 18 mmol, 0.071 g | N1=C(N=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C20H24N4O4
reactant | lithium hydroxide monohydrate | 2 mmol, 0.009 g | O.[OH-].[Li+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
product | (±)-8-[3-(Pyrimidin-2-ylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 0.05 g, 73% | N1=C(N=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)O)C=C1 | C19H22N4O4
